US06919331B2
A mixture of [6-bromo-1-(3-methyl-butyl)-1H-benzoimidazol-2-yl]-methanol (30 mg, 0.1 mmol), Zn(CN)2 (7 mg, 0.06 mmol) and tetrakis(triphenylphosphine) palladium(0) (12 mg, 0.01 mmol) in DMF (1 mL) was heated to 80° C. for 4 h. After cooling, the reaction mixture was diluted with MeOH and filtered. The filtrate was purified by prep-HPLC (gradient 10%-100% B) to give 16 mg (66%) of 2-hydroxymethyl-3-(3-methyl-butyl)-3H-benzoimidazole-5-carbonitrile as a white solid.

reactant | [6-bromo-1-(3-methyl-butyl)-1H-benzoimidazol-2-yl]-methanol | 0.1 mmol, 30 mg | BrC=1C=CC2=C(N(C(=N2)CO)CCC(C)C)C1 | C13H17BrN2O
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
catalyst | Zn(CN)2 | 0.06 mmol, 7 mg | [C-]#N.[C-]#N.[Zn+2]
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.01 mmol, 12 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 2-hydroxymethyl-3-(3-methyl-butyl)-3H-benzoimidazole-5-carbonitrile | 16 mg, 66% | OCC=1N(C2=C(N1)C=CC(=C2)C#N)CCC(C)C | C14H17N3O
